US06809110B2
In analogy to the procedure described in example 10 c], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 10 b]) was reacted with (2-(2-chloro-phenyl)-4-methyl-thiazol-5-yl]-methanol (prepared from 2-chloro-thiobenzamide and ethyl 2-chloro-acetoacetate in analogy to the procedures described in examples 33 a] and 33 b]) in the presence of triphenylphosphine and diethyl azodicarboxylate to yield [rac]-3-{4-[2-(2-chloro-phenyl)-4-methyl-thiazol-5-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester as colorless oil.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | (2-(2-chloro-phenyl)-4-methyl-thiazol-5-yl]-methanol | ClC1=C(C=CC=C1)C=1SC(=C(N1)C)CO | C11H10ClNOS
reactant | 2-chloro-thiobenzamide | ClC1=C(C(=S)N)C=CC=C1 | C7H6ClNS
reactant | ethyl 2-chloro-acetoacetate | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | [rac]-3-{4-[2-(2-chloro-phenyl)-4-methyl-thiazol-5-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC1=C(N=C(S1)C1=C(C=CC=C1)Cl)C)C)OCC)=O | C25H28ClNO4S
